Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])([O:4][C:5]([H:6])[H:7])[C:12]([O:11][C:8]([H:9])[H:10])([H:13])[H:14],3.53086402
[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.65454883251
[H:1][O:2][C:3]([O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],6.220005229600001
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9].[O:10][H:11],5.497601776980001
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][C:9]([H:10])([H:11])[H:12].[H:8],4.10158852132
[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.15325994203
[H:16].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.87770426881
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],0.7489751879269999
[H:8].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]=[C:10]([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.76257084965
[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]=[C:7]([H:8])[H:9].[O:3][C:4]#[C:5][H:6],0.267793831611
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7],6.28303654623
[C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]([O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.3735614079400005
[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[C:6][H:7].[H:1][C:2][O:3][C:4][H:5],8.40835352233
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8],6.03558250291
[H:6].[O:1]=[C:2]([C:3][H:4])[C:5]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.89111891091
[H:1][C:2][O:4]/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-3.96453562264
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11]>>[C:6]=[C:7]([H:8])[H:9].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:10][H:11],2.01373352557
[H:1][C:2]1([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]1>>[H:1][C:2]([H:3])[O:11][C:8]([C:5]([C:4])([H:6])[H:7])([H:9])[H:10],3.51581259
[H:1][C:2]([C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[O:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]1([H:13])[H:14],0.95301907
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][O:3][H:4],5.19290622732
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14]>>[C:3]([H:4])([H:5])[H:6].[H:1][C:2][C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14],4.84684170824
[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:11]([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-6.356563304169999
[H:8].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-3.4369188390300005
[C:6]([H:7])[H:10].[H:1][C:2][C:3]([H:4])([H:5])[C:8][H:9]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-8.96164596783
[C:4]([H:5])([H:6])[O:7][H:8].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][H:8],-3.05751419724
[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-8.98402416
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])[C:11][H:12]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])=[C:11][H:12],0.756126173346
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],4.61401234861
[C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-5.49503630826
[O:1][O:2][C@@:3]([H:4])([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1][O:2][C@@:3]([H:4])([C:5]#[C:6])[C:8]([H:9])([H:10])[H:11],6.000094142509999
